US06194410B1
In an analogous manner to that described in Example 5, from 7-chloro-5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl) -pyrazolo[1,5-a]pyrimidine and dimethylamine in EtOH there was obtained dimethyl-[5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-amine as colorless crystals, m.p. >230°.

reactant | 7-chloro-5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl) -pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC=C(C=C2)C)SC)C | C15H14ClN3O2S2
reactant | dimethylamine | CNC | C2H7N
solvent | EtOH | CCO | C2H6O
product | dimethyl-[5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-amine | CN(C1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC=C(C=C2)C)SC)C)C | C17H20N4O2S2
